US04042605
31 parts of 1,4-diamino-2,3-dichloroanthraquinone is introduced into 280 parts by volume of dimethylformamide and the whole is heated to 120° C. At this temperature 30 parts of sodium cyanide is introduced in about five minutes, the supply of heat being decreased because the temperature is maintained by the heat of reaction. After a short time the exothermic reaction ceases and the whole is heated at 125° to 130° C. for about another 35 minutes. After this period the whole of the starting material has reacted. The whole is cooled to 110° C., 11 parts of ammonium chloride is added and the solvent is substantially distilled off at subatmospheric pressure; 200 to 210 parts by volume of dimethylformamide is recovered. The residue in the still is stirred vigorously while 300 parts of water is slowly added; the reaction product is thus precipitated. The whole is stirred for about another hour until the product has become easily filterable, and suction filtered while hot, and the filter cake is washed with hot water until the water running away has become colorless. The product is rinsed with methanol and dried. 26 parts of 1,4-diaminoanthraquinone-2,3-dinitrile is obtained. The product has the same properties as those obtained according to Examples 1 and 2.

reactant | 1,4-diamino-2,3-dichloroanthraquinone | NC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)Cl)Cl | C14H8Cl2N2O2
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,4-diaminoanthraquinone-2,3-dinitrile | NC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)C#N)C#N | C16H8N4O2
